US08334310B2
To a stirred solution of (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-isothiocyanato-tetrahydro-2H-pyran-2,4,5-triyl triacetate (489 mg, 1.26 mmol) in CH2Cl2 (5 mL) was added neat butylamine (197 μL, 2.00 mmol) and the resulting mixture was stirred for 30 min. Saturated aqueous NaHCO3 (20 mL) was added, then the resulting mixture was extracted with CH2Cl2 (3×10 mL) and the combined organic extracts were dried (MgSO4) and concentrated. The resulting crude material was purified by flash chromatography on silica gel (hexane(EtOAc 1:1) to give (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-(3-butylthioureido)tetrahydro-2H-pyran-2,4,5-triyl triacetate as a white foam (566 mg, 97% yield). 1H NMR (500 MHz, CDCl3) δ 0.94 (t, 3H, J=7.5 Hz), 1.35-1.41 (m, 2H, 1.53-1.59 (m, 2H), 2.06 (s, 3H), 2.08 (s, 3H), 2.10 (s, 3H), 2.14 (s, 3H), 3.38 (br s, 2H), 3.82-3.85 (m, 1H), 4.13-4.16 (m, 2H), 4.20-4.25 (m, 1H), 4.29 (dd, 1H, J=4.5, 12.5 Hz), 5.17-5.22 (m, 2H), 5.73 (d, 1H, J=8.0 Hz), 6.10 (br s, 1H).

reactant | (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-isothiocyanato-tetrahydro-2H-pyran-2,4,5-triyl triacetate | 1.26 mmol, 489 mg | C(C)(=O)O[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1N=C=S)OC(C)=O)OC(C)=O)COC(C)=O | C15H19NO9S
reactant | butylamine | 2.00 mmol, 197 μL | C(CCC)N | C4H11N
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-(3-butylthioureido)tetrahydro-2H-pyran-2,4,5-triyl triacetate | 566 mg, 97% yield | C(C)(=O)O[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1NC(=S)NCCCC)OC(C)=O)OC(C)=O)COC(C)=O | C19H30N2O9S
